US04624961
N-(1,2-Diethyl-4-pyrazolidinyl)-2-methoxybenzamide
A solution of 2-methoxybenzoyl chloride (3.41 g, 0.020 mole) in 50 ml of toluene was added dropwise to a stirred solution of 1,2-diethyl-4-aminopyrazolidine (2.86 g. 0.020 mole) in 100 ml of toluene. The mixture was stirred at ambient temperature for 2 hrs, and then at reflux temperature for 2 hrs. After standing for 16 hrs, the mixture was extracted with 100 ml of 10% sodium bicarbonate solution. The toluene layer was dried over magnesium sulfate and concentrated to give 4.32 g (81.6%) of oil. The liquid was distilled over magnesium sulfate, b.p. 160° C./0.020 mm Hg, to give 2.52 g of a clear, yellow oil.

reactant | 2-methoxybenzoyl chloride | 0.020 mole, 3.41 g | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
reactant | 1,2-diethyl-4-aminopyrazolidine | 0.020 mole, 2.86 g | C(C)N1N(CC(C1)N)CC | C7H17N3
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-(1,2-Diethyl-4-pyrazolidinyl)-2-methoxybenzamide | 4.32 g, 81.6% | C(C)N1N(CC(C1)NC(C1=C(C=CC=C1)OC)=O)CC | C15H23N3O2
